US04118487
a. (biphenyl-4-yl)-phenyl-carbinol
38.8 g (0.15 mol) of 4-phenylbenzophenone are dissolved in 200 ml of ethanol and 3 g (0.075 mol) of sodium borohydride are added. After heating for 15 hours under reflux, and allowing to cool, the reaction mixture is hydrolyzed with water containing a little hydrochloric acid. The solid thereby produced is purified by recrystallization from ethanol. 36 g (89% of theory) of (biphenyl-4-yl)-phenyl-carbinol [alternatively named as diphenyl-phenyl carbinol or α-(biphenyl-4-yl)benzylalcohol] of melting point 72°-73° C. are obtained.

reactant | 4-phenylbenzophenone | 0.15 mol, 38.8 g | C1(=CC=CC=C1)C1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C19H14O
reactant | sodium borohydride | 0.075 mol, 3 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (biphenyl-4-yl)-phenyl-carbinol | C1(=CC=C(C=C1)C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
